US09290530B2
Preparation of UDP-GlcNAc and Derivatives
One-Pot Three-Enzyme Synthesis of UDP-Sugars T5b-9-T5b-13. This was carried out as shown in FIG. 4. Glucosamine derivatives T5b-1-T5b-5 (50 to 300 mg, 1.0 eq.), ATP (1.2 eq.), and UTP (1.2 eq.) were dissolved in water in a 50 mL centrifuge tube containing Tris-HCl buffer (100 mM, pH 8.0) and MgCl2 (10 mM). After the addition of appropriate amount of NanK_ATCC55813 (3.2-4.8 mg), PmGlmU (5-7.5 mg), and PmPpA (2.5-5 mg), water was added to bring the volume of the reaction mixture to 20 mL. The reaction was carried out by incubating the solution in an isotherm incubator for 24 hr to 48 hr at 37° C. with gentle shaking. Product formation was monitored by TLC (EtOAc:MeOH:H2O=3:2:1 by volume) with p-anisaldehyde sugar staining. The reaction was stopped by adding the same volume of ice-cold ethanol and incubating at 4° C. for 30 min. The mixture was concentrated and passed through a BioGel P-2 gel filtration column to obtain the desired product. Silica gel column purification (EtOAc:MeOH:H2O=4:2:1) was applied when necessary to achieve further purification.

reactant | Glucosamine | OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
reactant | ATP | 1.2 eq. | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | UTP | 1.2 eq. | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OP(=O)(O)O)O)O | C9H15N2O15P3
reactant | Tris-HCl | 100 mM, pH 8.0 | C(C(CO)(CO)N)O.Cl
reactant | MgCl2 | 10 mM | [Mg+2].[Cl-].[Cl-]
solvent | water | O | H2O
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | UDP-GlcNAc | CC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@@H]1OP(=O)(O)OP(=O)(O)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=O)NC3=O)O)O)CO)O)O | C17H27N3O17P2
